US04788206
As described in Example 99, (E,E)-5-(4-methoxyphenyl)-2,4nonadienoic acid methyl ester (8 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 2.5 hours the reaction was worked up in the normal manner and the crude product crystallized from 2-propanol-hexane to give 6.2 g of (E,E)-5-(4-methoxyphenyl)-2,4-nonadienoic acid, mp 138°-139.5° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4nonadienoic acid methyl ester | 8 g | COC(\C=C\C=C(/CCCC)\C1=CC=C(C=C1)OC)=O | C17H22O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-2,4-nonadienoic acid | 6.2 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCC | C16H20O3
